US07504412B2
2-Cyclopropyl-3-methyl-6-nitroimidazo[1,2-a]pyridine
Operations similar to Production Example 1-(1) were conducted using 1-cyclopropyl-1-propanone, and successively those of Production 1-(2) were conducted using 2-amino-5-nitropyridine. The solid whereupon obtained was suspended in ethyl acetate, washed with saturated aqueous sodium hydrogencarbonate solution and purified by silica gel column chromatography (hexane/ethyl acetate=4/1) to provide the title compounds as yellow crystals.

reactant | 1-cyclopropyl-1-propanone | C1(CC1)C(CC)=O | C6H10O
reactant | 2-amino-5-nitropyridine | NC1=NC=C(C=C1)[N+](=O)[O-] | C5H5N3O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-Cyclopropyl-3-methyl-6-nitroimidazo[1,2-a]pyridine | C1(CC1)C=1N=C2N(C=C(C=C2)[N+](=O)[O-])C1C | C11H11N3O2
